US03931217
To a hot solution of 6.0 g. (21.2 mmoles) of 2-[2-(2-chlorobenzoyl)phenyl]-2-imidazoline in 25 ml. of 6 N methanolic hydrogen chloride and 35 ml. of methanol was added 200 ml. of ether and the solution cooled. Filtration gave 2-[2-(2-chlorobenzoyl)phenyl]-2-imidazoline hydrochloride, m.p. 178°-180° dec. Dilution of the mother liquors with 200 ml. of ether followed by cooling and filtering afforded an additional quantity of hydrochloride. Recrystallization from methanol-ether gave colorless prisms, m.p. 178°-180° dec.

reactant | 2-[2-(2-chlorobenzoyl)phenyl]-2-imidazoline | 21.2 mmoles | ClC1=C(C(=O)C2=C(C=CC=C2)C=2NCCN2)C=CC=C1 | C16H13ClN2O
reactant | hydrogen chloride | 6 N | Cl | ClH
reactant | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 2-[2-(2-chlorobenzoyl)phenyl]-2-imidazoline hydrochloride | Cl.ClC1=C(C(=O)C2=C(C=CC=C2)C=2NCCN2)C=CC=C1 | InChI=1S/C16H13ClN2O.ClH/c17-14-8-4-3-7-13(14)15(20)11-5-1-2-6-12(11)16-18-9-10-19-16;/h1-8H,9-10H2,(H,18,19);1H
